US06313132B1
31.2 N-Cyclobutyl-N-methyl-3-(2-benzyloxy-5-bromophenyl)-3-phenylpropanamine
5 M HCl-methanol (0.46 mL, 2.32 mmol), formaldehyde (0.870 g, 28.97 mmol) and sodium cyanoborohydride (0.255 g, 4.056 mmol) were added to a solution of N-cyclobutyl-3-(2-benzyloxy-5-bromophenyl)-3-phenylpropanamine (2.61 g, 5.79 mmol) in methanol (8 mL). The reaction mixture was stirred at room temperature overnight. The solvent was evaporated and the residue was chromatographed on silica (hexane-triethylamine, 9:1). Yield 1.59 g (59%); 1H NMR (CDCl3) δ1.59 (m, 2H), 1.73 (m, 2H), 1.91 (m, 2H), 2.06 (s, 3H), 2.16 (m, 4H), 2.68 (m, 1H), 4.38 (t, 1H), 5.00 (s, 2H), 6.72 (d, IH), 7.12-7.58 (m, 12H).

reactant | HCl methanol | 2.32 mmol, 5 M, 0.46 mL | Cl.CO
reactant | formaldehyde | 28.97 mmol, 0.870 g | C=O | CH2O
reactant | sodium cyanoborohydride | 4.056 mmol, 0.255 g | C(#N)[BH3-].[Na+]
reactant | N-cyclobutyl-3-(2-benzyloxy-5-bromophenyl)-3-phenylpropanamine | 5.79 mmol, 2.61 g | C1(CCC1)NCCC(C1=CC=CC=C1)C1=C(C=CC(=C1)Br)OCC1=CC=CC=C1 | C26H28BrNO
solvent | methanol | 8 mL | CO | CH4O
product | N-Cyclobutyl-N-methyl-3-(2-benzyloxy-5-bromophenyl)-3-phenylpropanamine | C1(CCC1)N(CCC(C1=CC=CC=C1)C1=C(C=CC(=C1)Br)OCC1=CC=CC=C1)C | C27H30BrNO
